US09056874B2
(±)-2-(1-(5-cyanobenzo[d]oxazol-2-yl)-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethoxy)acetic acid
To a solution of (±)-4-(1-(5-cyanobenzo[d]oxazol-2-yl)-2,2,2-trifluoro-1-(2-methoxy-2-oxoethoxy)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (90 mg, 0.157 mmol) in THF (1.5 mL) and MeOH (0.15 mL) was added 1 M aq. NaOH (0.47 mL, 0.47 mmol) and the reaction left to stir at rt for 1 h and then warmed up to 60° C. At this point, 2 M aq. NaOH (0.47 mL, 0.94 mmol) was added and the reaction mixture was stirred for 2 h. The reaction mixture was cooled to rt and diluted with 1M aq.KHSO4, brine and EtOAc. The organic layer was separated, dried over Na2SO4, filtered, and concentrated. The resulting residue was purified by RP-HPLC (HC-A) to give the title compound. 1H NMR (TFA salt, 400 MHz, CD3OD) δ ppm 8.21 (br. t, J=1.07 Hz, 1H), 7.80-7.81 (m, 2H), 7.35 (br. t, 1H), 6.82 (br. d, J=2.65 Hz, 1H), 6.72 (s, 1H), 4.32-4.46 (m, 2H) 3.20 (s, 3H), 2.54 (s, 3H). HRMS calcd. for C22H16F3N3O5 (M+H)+ 460.1120. found 460.1114.

reactant | (±)-4-(1-(5-cyanobenzo[d]oxazol-2-yl)-2,2,2-trifluoro-1-(2-methoxy-2-oxoethoxy)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.157 mmol, 90 mg | C(#N)C=1C=CC2=C(N=C(O2)C(C(F)(F)F)(OCC(=O)OC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)[O-])C1
reactant | NaOH | 0.47 mmol, 1 M, 0.47 mL | [OH-].[Na+]
reactant | NaOH | 0.94 mmol, 2 M, 0.47 mL | [OH-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.15 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | (±)-2-(1-(5-cyanobenzo[d]oxazol-2-yl)-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethoxy)acetic acid | C(#N)C=1C=CC2=C(N=C(O2)C(C(F)(F)F)(OCC(=O)O)C2=C3C=CNC3=C(C=C2OC)C)C1 | C22H16F3N3O5
